US07544215B2
Step 1: Preparation of 2-{4-[ethyl(2-hydroxyethyl)amino]phenyl}-6-nitro-1H-benzo [de]isoquinolin-1,3(2H)-dione
2.0 g (8.22 mmol) of 4-nitronaphthalene-1,8-dicarboxylic anhydride and 2.68 g (9.04 mmol) of N-ethyl-N-(2-hydroxyethyl)-p-phenylenediamine sulfate monohydrate were stirred in 12 g of molten imidazole at 130° C. under an argon atmosphere for 1 hour. After cooling, the mixture was poured into 400 mL of 2 N hydrochloric acid and the precipitate was suction-filtered off, washed with water and dried. The resulting product was used in Step 2 without further purification.

reactant | 4-nitronaphthalene-1,8-dicarboxylic anhydride | 8.22 mmol, 2.0 g | [N+](=O)([O-])C1=CC=C2C3=C(C=CC=C13)C(=O)OC2=O | C12H5NO5
reactant | N-ethyl-N-(2-hydroxyethyl)-p-phenylenediamine sulfate monohydrate | 9.04 mmol, 2.68 g | O.S(=O)(=O)(O)O.C(C)N(C1=CC=C(C=C1)N)CCO
reactant | hydrochloric acid | 2 N, 400 mL | Cl | ClH
solvent | imidazole | 12 g | N1C=NC=C1 | C3H4N2
product | 2-{4-[ethyl(2-hydroxyethyl)amino]phenyl}-6-nitro-1H-benzo [de]isoquinolin-1,3(2H)-dione | C(C)N(C1=CC=C(C=C1)N1C(C2=CC=CC=3C2=C(C1=O)C=CC3[N+](=O)[O-])=O)CCO | C22H19N3O5
